US05554615
Preparation of t-butyl 5-(2-ethoxycarbonyl-E-ethenyl)-2-thiophenecarboxylate
Sodium hydride (min 60% paraffinic dispersion, 1.88 g, about 47 mmol) was washed with anhydrous hexane in a nitrogen stream and suspended in anhydrous tetrahydrofuran. The obtained suspension was stirred under cooling with ice, followed by the gradual dropwise addition of a solution of ethyl diethylphosphonoacetate (10.53 g, 47 mmol) in anhydrous tetrahydrofuran. The obtained mixture was stirred at room temperature for 15 minutes. A solution of the t-butyl 5-formyl-2-thiophenecarboxylate (6.65 g, 31.3 mmol) prepared above in anhydrous tetrahydrofuran was gradually dropped into the resulting mixture under cooling with ice. The obtained mixture was stirred at room temperature for 30 minutes, diluted with diethyl ether, washed with a dilute alkali, diluted hydrochloric acid and an aqueous solution of common salt, dehydrated and evaporated in a vacuum to dryness. The residue was purified by silica gel column chromatography (developer: n-hexane/ethyl acetate=8:1) to give the objective compound. yield: 7.58 g

reactant | Sodium hydride | about 47 mmol, 1.88 g | [H-].[Na+]
reactant | ethyl diethylphosphonoacetate | 47 mmol, 10.53 g | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | t-butyl 5-formyl-2-thiophenecarboxylate | 31.3 mmol, 6.65 g | C(=O)C1=CC=C(S1)C(=O)OC(C)(C)C | C10H12O3S
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | t-butyl 5-(2-ethoxycarbonyl-E-ethenyl)-2-thiophenecarboxylate | C(C)OC(=O)/C=C/C1=CC=C(S1)C(=O)OC(C)(C)C | C14H18O4S
